US04391808
A mixture of 5 g of 5-methylthio-imidazo[2,1-b][1,3,5]-benzothiadiazepine hydrochloride, 2.86 g of N-β-hydroxyethylpiperazine, and 175 ml of amyl alcohol is refluxed under nitrogen for 48 hrs. with stirring. The solvent is removed under vacuum, the residue is triturated with methylene chloride, washed with 2 N sodium hydroxide solution, dried over MgSO4, and evaporated to dryness. The residue is dissolved in 5 ml of methanol and treated with 2 N ethereal hydrochloric acid solutions to give 5-(4-β-hydroxyethylpiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine dihydrochloride melting at 212°-214°.

reactant | 5-methylthio-imidazo[2,1-b][1,3,5]-benzothiadiazepine hydrochloride | 5 g | Cl.CSC=1N2C(SC3=C(N1)C=CC=C3)=NC=C2
reactant | N-β-hydroxyethylpiperazine | 2.86 g | OCCN1CCNCC1 | C6H14N2O
reactant | amyl alcohol | 175 ml | C(CCCC)O | C5H12O
product | 5-(4-β-hydroxyethylpiperazino)-imidazo[2,1-b][1,3,5]benzothiadiazepine dihydrochloride | Cl.Cl.OCCN1CCN(CC1)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2 | InChI=1S/C16H19N5OS.2ClH/c22-12-11-19-7-9-20(10-8-19)15-18-13-3-1-2-4-14(13)23-16-17-5-6-21(15)16;;/h1-6,22H,7-12H2;2*1H
